.subckt 2_4_Decoder Sel0 Sel1 y1 y2 y3 y4 vdd gnd
    .include AND.sub
    .include NOT.sub

    X1 Sel0 Sel0c vdd gnd NOT
    X2 Sel1 Sel1c vdd gnd NOT

    X3 Sel0c Sel1c y1 vdd gnd AND
    X4 Sel0c Sel1 y2 vdd gnd AND
    X5 Sel0 Sel1c y3 vdd gnd AND
    X6 Sel0 Sel1 y4 vdd gnd AND
.ends 2_4_Decoder