.subckt 2_1_MUX Sel0 i0 i1 y vdd gnd
    .include AND.sub
    .include NOT.sub
    .include OR.sub

    X1 Sel0 Sel0c vdd gnd NOT

    X2 Sel0c i0 w1 vdd gnd AND
    X3 Sel0 i1 w2 vdd gnd AND

    X4 w1 w2 y vdd gnd OR
.ends 2_1_MUX