.subckt AND_4 inA inB inC inD out vdd gnd
    .include NAND_4.sub
    .include NOT.sub

    X1 inA inB inC inD out1 vdd gnd NAND_4
    X2 out1 out vdd gnd NOT
.ends AND_4