.subckt NAND_3 inA inB inC out vdd gnd
    .include AND.sub
    .include NAND.sub

    X1 inA inB out1 vdd gnd AND
    X2 inC out1 out vdd gnd NAND
.ends NAND_3