.subckt NAND_5 inA inB inC inD inE out vdd gnd
    .include AND.sub
    .include NAND_4.sub

    X1 inA inB out1 vdd gnd AND
    X2 inC inD inE out1 out vdd gnd NAND_4
.ends NAND_5