.subckt NOT in out vdd gnd
    Mp out in vdd vdd CMOSP W={1.8u} L={0.18u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}
    
    Mn out in gnd gnd CMOSN W={1.8u} L={0.36u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}
.ends NOT