.subckt OR inA inB out vdd gnd
    Mp1 A_drain inA vdd vdd CMOSP W={1.8u} L={0.18u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}

    Mp2 out_nor inB A_drain A_drain CMOSP W={1.8u} L={0.18u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}

    Mn1 out_nor inA gnd gnd CMOSN W={1.8u} L={0.36u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}

    Mn2 out_nor inB gnd gnd CMOSN W={1.8u} L={0.36u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}

    Mp out out_nor vdd vdd CMOSP W={1.8u} L={0.18u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}
    
    Mn out out_nor gnd gnd CMOSN W={1.8u} L={0.36u}
    + AS={5*1.8u*0.18u} PS={10*0.18u+2*1.8u} 
    + AD={5*1.8u*0.18u} PD={10*0.18u+2*1.8u}
.ends OR