.subckt OR_3 inA inB inC out vdd gnd
    .include NOT.sub
    .include NOR_3.sub

    X1 inA inB inC out1 vdd gnd NOR_3
    X2 out1 out vdd gnd NOT
.ends OR_3