* SPICE3 file created from Decoder.ext - technology: scmos

.option scale=0.09u
.include TSMC_180nm.txt 
.global GND Gnd gnd

Vdd VDD 0 dc 1.8 

VS0 Sel0 0 dc 1.8 
VS1 Sel1 0 dc 0

M1000 m1_n118_99# Sel0 GND Gnd CMOSN w=14 l=4
+  ad=126 pd=46 as=1692 ps=540
M1001 VDD Sel0 m1_n118_99# CMOS_in_0/w_0_0# CMOSP w=14 l=4
+  ad=2412 pd=788 as=126 ps=46
M1002 VDD m1_n118_99# AND_2_0/a_9_10# AND_2_0/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1003 AND_2_0/a_9_10# m1_n118_99# AND_2_0/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1004 VDD AND_2_0/a_9_10# y1 AND_2_0/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1005 AND_2_0/a_10_n33# m1_n119_22# GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1006 VDD m1_n119_22# AND_2_0/a_9_10# AND_2_0/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1007 y1 AND_2_0/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
M1008 VDD m1_n118_99# AND_2_1/a_9_10# AND_2_1/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1009 AND_2_1/a_9_10# m1_n118_99# AND_2_1/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1010 VDD AND_2_1/a_9_10# y2 AND_2_1/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1011 AND_2_1/a_10_n33# Sel1 GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1012 VDD Sel1 AND_2_1/a_9_10# AND_2_1/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1013 y2 AND_2_1/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
M1014 m1_n119_22# Sel1 GND Gnd CMOSN w=14 l=4
+  ad=126 pd=46 as=0 ps=0
M1015 VDD Sel1 m1_n119_22# CMOS_in_1/w_0_0# CMOSP w=14 l=4
+  ad=0 pd=0 as=126 ps=46
M1016 VDD Sel0 AND_2_2/a_9_10# AND_2_2/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1017 AND_2_2/a_9_10# Sel0 AND_2_2/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1018 VDD AND_2_2/a_9_10# y3 AND_2_2/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1019 AND_2_2/a_10_n33# m1_n119_22# GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1020 VDD m1_n119_22# AND_2_2/a_9_10# AND_2_2/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1021 y3 AND_2_2/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
M1022 VDD Sel0 AND_2_3/a_9_10# AND_2_3/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1023 AND_2_3/a_9_10# Sel0 AND_2_3/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1024 VDD AND_2_3/a_9_10# y4 AND_2_3/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1025 AND_2_3/a_10_n33# Sel1 GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1026 VDD Sel1 AND_2_3/a_9_10# AND_2_3/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1027 y4 AND_2_3/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
C0 VDD GND 2.71fF

.control 
run 
tran 10u 120n 
plot v(Sel0) v(Sel1)+2
plot v(y1) v(y2)+2 v(y3)+4 v(y4)+6 
.endc 
.end
