* SPICE3 file created from 4_bit_ANDer.ext - technology: scmos

.option scale=0.09u
.include TSMC_180nm.txt 
.global GND Gnd gnd

Vdd VDD 0 dc 1.8 

Va0 A0 0 dc 1.8
Va1 A1 0 dc 1.8
Va2 A2 0 dc 0
Va3 A3 0 dc 0

Vb0 B0 0 dc 1.8
Vb1 B1 0 dc 1.8
Vb2 B2 0 dc 0
Vb3 B3 0 dc 0

Ven En 0 dc 1.8

M1000 C1 3in_AND_1/a_n42_n19# GND Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=728 ps=320
M1001 VDD A1 3in_AND_1/a_n42_n19# 3in_AND_1/w_n12_n4# CMOSP w=13 l=6
+  ad=1664 pd=672 as=312 ps=126
M1002 3in_AND_1/a_n42_n19# En 3in_AND_1/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=182 ps=80
M1003 VDD 3in_AND_1/a_n42_n19# C1 3in_AND_1/w_64_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=104 ps=42
M1004 VDD En 3in_AND_1/a_n42_n19# 3in_AND_1/w_n50_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1005 VDD B1 3in_AND_1/a_n42_n19# 3in_AND_1/w_26_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1006 3in_AND_1/a_n4_n19# B1 GND Gnd CMOSN w=13 l=4
+  ad=208 pd=84 as=0 ps=0
M1007 3in_AND_1/a_n4_n19# A1 3in_AND_1/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=0 pd=0 as=0 ps=0
M1008 C0 3in_AND_0/a_n42_n19# GND Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=0 ps=0
M1009 VDD A0 3in_AND_0/a_n42_n19# 3in_AND_0/w_n12_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=312 ps=126
M1010 3in_AND_0/a_n42_n19# En 3in_AND_0/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=182 ps=80
M1011 VDD 3in_AND_0/a_n42_n19# C0 3in_AND_0/w_64_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=104 ps=42
M1012 VDD En 3in_AND_0/a_n42_n19# 3in_AND_0/w_n50_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1013 VDD B0 3in_AND_0/a_n42_n19# 3in_AND_0/w_26_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1014 3in_AND_0/a_n4_n19# B0 GND Gnd CMOSN w=13 l=4
+  ad=208 pd=84 as=0 ps=0
M1015 3in_AND_0/a_n4_n19# A0 3in_AND_0/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=0 pd=0 as=0 ps=0
M1016 C2 3in_AND_2/a_n42_n19# GND Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=0 ps=0
M1017 VDD A2 3in_AND_2/a_n42_n19# 3in_AND_2/w_n12_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=312 ps=126
M1018 3in_AND_2/a_n42_n19# En 3in_AND_2/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=182 ps=80
M1019 VDD 3in_AND_2/a_n42_n19# C2 3in_AND_2/w_64_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=104 ps=42
M1020 VDD En 3in_AND_2/a_n42_n19# 3in_AND_2/w_n50_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1021 VDD B2 3in_AND_2/a_n42_n19# 3in_AND_2/w_26_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1022 3in_AND_2/a_n4_n19# B2 GND Gnd CMOSN w=13 l=4
+  ad=208 pd=84 as=0 ps=0
M1023 3in_AND_2/a_n4_n19# A2 3in_AND_2/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=0 pd=0 as=0 ps=0
M1024 C3 3in_AND_3/a_n42_n19# GND Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=0 ps=0
M1025 VDD A3 3in_AND_3/a_n42_n19# 3in_AND_3/w_n12_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=312 ps=126
M1026 3in_AND_3/a_n42_n19# En 3in_AND_3/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=104 pd=42 as=182 ps=80
M1027 VDD 3in_AND_3/a_n42_n19# C3 3in_AND_3/w_64_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=104 ps=42
M1028 VDD En 3in_AND_3/a_n42_n19# 3in_AND_3/w_n50_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1029 VDD B3 3in_AND_3/a_n42_n19# 3in_AND_3/w_26_n4# CMOSP w=13 l=6
+  ad=0 pd=0 as=0 ps=0
M1030 3in_AND_3/a_n4_n19# B3 GND Gnd CMOSN w=13 l=4
+  ad=208 pd=84 as=0 ps=0
M1031 3in_AND_3/a_n4_n19# A3 3in_AND_3/a_n42_n30# Gnd CMOSN w=13 l=4
+  ad=0 pd=0 as=0 ps=0
C0 GND VDD 2.09fF
C1 En Gnd 2.02fF

.control 
run 
tran 10u 120n 
plot v(C0) v(C1)+2 v(C2)+4 v(C3)+6
.endc 

.end
